US09422247B2
E. 4-Methyl-6-(2-methylpropyl)pyrimidine-2-ol-1-oxide hydrochloride
0.20 mol (15.21 g) hydroxy urea were dissolved in 300 ml of M HCl, 300 ml of methanol were added, and 0.20 mol (28.44 g) 6-methyl-2,4-heptanedione were added dropwise while cooling at −12 to −10° C. The solution was allowed to warm slowly to room temperature and stirred over night, then evaporated to dryness. The residue was suspended with 200 ml of acetone, the mixture cooled to below 0° C. in an ice/ethanol bath, the solid filtered off and washed with a little ice-cold acetone. After drying 7.23 g of a product was obtained, which contained 58% of the title compound and 42% of the by-product ammonium chloride.

reactant | hydroxy urea | 0.20 mol, 15.21 g | ONC(=O)N | CH4N2O2
reactant | 6-methyl-2,4-heptanedione | 0.20 mol, 28.44 g | CC(CC(CC(C)=O)=O)C | C8H14O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | HCl | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
product | 4-Methyl-6-(2-methylpropyl)pyrimidine-2-ol-1-oxide hydrochloride | 58% | Cl.CC=1N=C([N+](=C(C1)CC(C)C)[O-])O | InChI=1S/C9H14N2O2.ClH/c1-6(2)4-8-5-7(3)10-9(12)11(8)13;/h5-6H,4H2,1-3H3,(H,10,12);1H
